US04024265
Trans-2-cyclopropylmethyl-2,3,4,4a,11,11a-hexahydro-1H-benzo[5,6]cyclohepta[1,2-c]pyridine [Process variant Id)]
A solution of 10.0 g of trans-2-cyclopropylcarbonyl-2,3,4,4a,11,11a-hexahydro-1H-benzo[5,6]cyclohepta[1,2-c]pyridine (obtained by reaction of trans-2,3,4,4a,11,11a-hexahydro-1H-benzo[5,6]cyclohepta[1,2-c]-pyridine with cyclopropanecarboxylic acid chloride) in 150 cc of anhydrous tetrahydrofuran is added dropwise, while stirring, at 10°-15°, to a solution of 2.5 g of lithium aluminium hydride in 350 cc of anhydrous tetrahydrofuran, and the reaction mixture is stirred at room temperature for 2 hours. The reaction mixture is decomposed at 0°-5° by the dropwise addition of 12 cc of saturated sodium sulphate solution, the inorganic portion is filtered off and washed out with methylene chloride. The combined filtrates are dried over sodium sulphate, concentrated by evaporation, and the title compound obtained as oily residue is converted into the hydrogen fumarate in isopropanol/acetone and is recrystallized. M.P. 157°-159°.

reactant | trans-2-cyclopropylcarbonyl-2,3,4,4a,11,11a-hexahydro-1H-benzo[5,6]cyclohepta[1,2-c]pyridine | 10.0 g | C1(CC1)C(=O)N1C[C@H]2[C@H](CC1)C=CC1=C(C2)C=CC=C1 | C18H21NO
reactant | lithium aluminium hydride | 2.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulphate | 12 cc | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 150 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 350 cc | O1CCCC1 | C4H8O
product | Trans-2-cyclopropylmethyl-2,3,4,4a,11,11a-hexahydro-1H-benzo[5,6]cyclohepta[1,2-c]pyridine | C1(CC1)CN1C[C@H]2[C@H](CC1)C=CC1=C(C2)C=CC=C1 | C18H23N
